US04963564
4-(2-Quinolinyl)-3-butynol
A mixture of 2-bromoquinoline (0.44 g), 3-butynol (0.2 ml), N,N-dicyclohexylamine (0.46 ml), BTPC (30 mg), copper (I) iodide (5 mg) and acetonitrile (10 ml) was stirred at 22° for 5 h. Ether (50 ml) was added, and the mixture filtered and evaporated in vacuo. The residue was purified by FCC eluting with ether followed by ether-methanol (19:1), to afford the title compound as a colourless solid (0.41 g). A small sample recrystallised from ethyl acetate-hexane had m.p. 89°-91°.

reactant | 2-bromoquinoline | 0.44 g | BrC1=NC2=CC=CC=C2C=C1 | C9H6BrN
reactant | 3-butynol | 0.2 ml | C(CC#C)O | C4H6O
reactant | N,N-dicyclohexylamine | 0.46 ml | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
catalyst | copper (I) iodide | 5 mg | [Cu]I
solvent | Ether | 50 ml | CCOCC | C4H10O
product | 4-(2-Quinolinyl)-3-butynol | 0.41 g | N1=C(C=CC2=CC=CC=C12)C#CCCO | C13H11NO
